US05358950
26 g of 6-n-propyl-2-mercapto-4-hydroxy-5[(2'-cyano-4-biphenylyl)methyl]pyrimidine, prepared in Example 100, are stirred for 15 minutes in a solution of 5 g of potassium hydroxide in 100 ml of methanol. 6 ml of methyl iodide are added to the mixture, which is then stirred for 4 hours at room temperature. The crystals formed are drained, washed with water and then with ether and dried to give 23 g of 6-n-propyl-2-methylthio-4-hydroxy-5-[(2'-cyano-4-biphenylyl)methyl]pyrimidine in the form of crystals of melting point 218° C.

reactant | 6-n-propyl-2-mercapto-4-hydroxy-5[(2'-cyano-4-biphenylyl)methyl]pyrimidine | 26 g | C(CC)C1=C(C(=NC(=N1)S)O)CC1=CC=C(C=C1)C1=C(C=CC=C1)C#N | C21H19N3OS
reactant | potassium hydroxide | 5 g | [OH-].[K+]
reactant | methyl iodide | 6 ml | CI | CH3I
solvent | methanol | 100 ml | CO | CH4O
product | 6-n-propyl-2-methylthio-4-hydroxy-5-[(2'-cyano-4-biphenylyl)methyl]pyrimidine | 23 g | C(CC)C1=C(C(=NC(=N1)SC)O)CC1=CC=C(C=C1)C1=C(C=CC=C1)C#N | C22H21N3OS
